US05589478
2-Chloro-5-bromopyrimidine and 2-furyltributyltin are treated in the same manner as in Example 190 to give 2-chloro-5-(2-furyl)pyrimidine.

reactant | 2-Chloro-5-bromopyrimidine | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | 2-furyltributyltin | O1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
product | 2-chloro-5-(2-furyl)pyrimidine | ClC1=NC=C(C=N1)C=1OC=CC1 | C8H5ClN2O
